US05556861
3-(Cyclopropylamino)azetidine dihydrochloride was prepared under the conditions described in Example 9 for 3-(ethylamino)azetidine dihydrochloride, but starting with 5.4 g of 1-benzhydryl-3-(cyclopropylamino)azetidine dihydrochloride. 2.25 g of 3-(cyclopropylamino)azetidine dihydrochloride are obtained in the form of a colorless solid, melting point 140° C.

reactant | 3-(ethylamino)azetidine dihydrochloride | Cl.Cl.C(C)NC1CNC1
reactant | 1-benzhydryl-3-(cyclopropylamino)azetidine dihydrochloride | 5.4 g | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC1CC1
product | 3-(cyclopropylamino)azetidine dihydrochloride | 2.25 g | Cl.Cl.C1(CC1)NC1CNC1 | InChI=1S/C6H12N2.2ClH/c1-2-5(1)8-6-3-7-4-6;;/h5-8H,1-4H2;2*1H
